2192-02-23 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: PSV 0/5, tolerating well, however had no cuff leak so
   not candidate for extubation today
   24 Hour Events:
 PICC LINE - START [**2192-2-22**] 04:30 PM
 BRONCHOSCOPY - At [**2192-2-22**] 05:45 PM
 URINE CULTURE - At [**2192-2-23**] 12:26 AM
   Allergies:
   Linezolid
   Hives; Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2192-2-23**] 02:06 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-2-22**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-2-23**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 76 (76 - 112) bpm
   BP: 100/62(70) {93/59(66) - 135/74(86)} mmHg
   RR: 14 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.1 kg (admission): 106.5 kg
             Total In:
                                                                    322 mL
                                                                    337 mL
   PO:
             TF:
   IVF:
                                                                    322 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    600 mL
   Urine:
                                                                    710 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -388 mL
                                                                   -263 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 825 (805 - 900) mL
   PS : 5 cmH2O
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 12
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 6.7 L/min
   Physical Examination
   GENERAL: NAD, intubated, sedated, head nods to questions.
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**]. JVP-difficult to assess given habitus.
   LUNGS: b/l ae, decreased BS on the L.middle and lower lobes, no w/c/r
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES:1+ edema, no calf tenderness, erythema, symmetric, 2+
   dorsalis pedis/ posterior tibial pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO:intubated, sedated, head nods to commandes, able to move all 4
   extremities.
   Labs / Radiology
   250 K/uL
   8.8 g/dL
   135 mg/dL
   2.2 mg/dL
   34 mEq/L
   4.8 mEq/L
   49 mg/dL
   92 mEq/L
   132 mEq/L
   27.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2192-2-23**]  03:52 AM
   WBC
   11.7
   Hct
   27.9
   Plt
   250
   Cr
   2.2
   Glucose
   135
   Other labs: PT / PTT / INR:23.9/ 150.0/2.3, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Ca++:11.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.9 mg/dL
   Theophylline-10.0
   .
[**2192-2-22**] 5:58 pm BRONCHIAL WASHINGS
   GRAM STAIN (Final [**2192-2-23**]):
      3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
   66 year old woman with past medical history significant for COPD on
   home 02, hypertension, hyperlipidemia, h.o PE, PNA who presents with
   hypoxia.
   .
   # ACUTE RESPIRATORY FAILURE (hypoxic and hypercarbic)-Pt with COPD, on
   4L home o2, bipap. h.o PE. Pt with recent CAP tx with levoquin.
   Additionally, she completed a course of HAP with vanco/cefepime. CXR
   and CT showing LLL collapse with collapse of the L.mainstem bronchus.
   Bronchoscopy with thick purulent material. Likely HAP with resistant
   organism. Other etiologies include fungal infection, abscess, infarct
   from PE. Hypercarbic, likely secondary to COPD.
   -Ventilator for now, wean as tolerated
   - address cuff leak with steroids for now, consult IP for stent
   evaluation
   -b/l BAL for G stain and Cx, fungal cx, resp culture.
   -will cover with vanco/zosyn
   - consider broadening for anaerobic and/or double pseudomonal coverage
   if clinically worsens
   - standing inhalers for COPD
   -will continue steroids for now given chronicity, will f/u plan for
   taper
   - cont theophylline, level wnl
   -bcx, ucx, sputum cx.
   .
   # COPD: FEV 1 of .46.
   -continue inhalers
   -continue steroids.
   .
   #. h/o PE: INR subtherapeutic on admission, now 2.3 in goal range.
   Received 5 mg coumadin overnight and covered with IV heparin gtt.
   - D/C heparin gtt
   - cont home dose coumadin and follow INRs
   .
   # DIABETES-Hiss, Fs qid, Dm diet.
   .
   # HYPERTENSION-continue home regimen
   .
   # HYPOTHYROIDISM: continue home regimen
   .
   # H/O PULMONARY EMBOLUS:heparin IV for now.
   .
   #CKD-unknown baseline, currently 2.3
 2.2
   - f/u urine lytes
   -u/a and cx
   -renally dose meds.
   .
   #. HYPERCALCEMIA: Unclear baseline. Concerning for underlying
   malignancy.
   - albumin pending
   .
   #.FEN-npo for now.
   DVT ppx-heparin IV
   PPI
   bowel regimen with senna/colace
   .
   #access-L midline, PIV
   .
   #.Communication with patients family
   .
   #Code confirmed full
   .
   DISPOSITION:ICU while ventilator dependent.
   ICU Care
   Nutrition:
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Prophylaxis:
   DVT: heparin IV
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition:  ICU

2192-02-23 10:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Awake, alert.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   Linezolid
   Hives; Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2192-2-23**] 02:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-2-23**] 09:12 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-2-22**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2192-2-23**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 96 (76 - 112) bpm
   BP: 103/61(73) {93/59(66) - 135/74(86)} mmHg
   RR: 8 (8 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.1 kg (admission): 106.5 kg
             Total In:
                                                                    336 mL
                                                                    616 mL
   PO:
             TF:
   IVF:
                                                                    336 mL
                                                                    616 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    830 mL
   Urine:
                                                                    710 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -374 mL
                                                                   -214 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 804 (804 - 900) mL
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 12
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: ///34/
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Left lung, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   250 K/uL
   135 mg/dL
   2.2 mg/dL
   34 mEq/L
   4.8 mEq/L
   49 mg/dL
   92 mEq/L
   132 mEq/L
   27.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2192-2-23**]  03:52 AM
   WBC
   11.7
   Hct
   27.9
   Plt
   250
   Cr
   2.2
   Glucose
   135
   Other labs: PT / PTT / INR:23.9/ 150.0/2.3, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Albumin:3.6 g/dL,
   Ca++:11.2 mg/dL, Mg++:2.4 mg/dL, PO4:4.9 mg/dL
   Fluid analysis / Other labs: Theophylline = 10
   Vanco (trough)= 23
   Assessment and Plan
   RESPIRATORY FAILURE -- multifactorial, including new/recurrent
   pneumonia, LLL atalectasis, severe tracheobronchomalacia, underlying
   COPD and OSA.  Plan continue mechanical ventilation, monitor ABG/VBG,
   maintain COPD medication regimen (including steroids), and
   antimicrobials.  Anticipate challlenge for extubation, but will proceed
   as tolerated.
   PULMONARY INFILTRATE -- LLL, suspect pneumonia, suspect aspiration.
   Concern for resistent microbes (recent prolonged antimicrobials and
   intubation) --> would favor broad spectrum antimicrobials, esp. GNR
   coverage.  COntinue suctioning.
   HYPONATREMIA -- Euvolemic.  Possibly related to pneumonia.  Plan
   monitor Na+, provide NS.
   RENAL INSUFFICIENCY -- baseline.  Monitor uo, BUN,creatinine.  Renal
   dose medications.
   FLUIDS -- hypovolemia; plan net hydration.  Monitor I/O.
   h/o PULMONARY EMBOLISM -- continue anticoagulation, use heparin,
   maintain PTT 60-80.
   NUTRITIONAL SUPPORT -- Hold TF.
   HYPERCALCEMIA
 repeat.  Monitor.  Initiate evaluation for parathyroid
   disease.
   NIDDM
 Monitor glucose.  Maintain glucose <150.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2192-2-22**] 04:30 PM
   22 Gauge - [**2192-2-22**] 10:33 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2192-02-24 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - first SBT -> no cuff leak; second SBP -> cuff leak
   - Resp viral screen -> (+) parainfluenza, no Rx
   - held nutrition in anticipation of possible extubation tomorrow
   - called NH for dose of warfarin, prednisone
   - will need to courtesy page IP tomorrow to inform them of possible
   extubation
   - FeUrea ~30%
   Allergies:
   Linezolid
   Hives; Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2192-2-23**] 02:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-2-24**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-2-24**] 12:13 AM
   Dextrose 50% - [**2192-2-24**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-2-24**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 85 (78 - 102) bpm
   BP: 106/65(73) {99/55(66) - 123/78(87)} mmHg
   RR: 8 (7 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.1 kg (admission): 106.5 kg
             Total In:
                                                                  1,300 mL
                                                                    318 mL
   PO:
             TF:
   IVF:
                                                                  1,055 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                  2,030 mL
                                                                    480 mL
   Urine:
                                                                  2,030 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -730 mL
                                                                   -162 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 650 (650 - 804) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 21
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.39/58/81.[**Numeric Identifier 252**]//7
   Ve: 6.7 L/min
   PaO2 / FiO2: 162
   Physical Examination
   GENERAL: NAD, intubated, sedated, head nods to questions.
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**]. JVP-difficult to assess given habitus.
   LUNGS: b/l ae, decreased BS on the L.middle and lower lobes, no w/c/r
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES:1+ edema, no calf tenderness, erythema, symmetric, 2+
   dorsalis pedis/ posterior tibial pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO:intubated, sedated, head nods to commandes, able to move all 4
   extremities.
   Labs / Radiology
   257 K/uL
   9.0 g/dL
   135 mg/dL
   2.2 mg/dL
   34 mEq/L
   4.8 mEq/L
   49 mg/dL
   92 mEq/L
   132 mEq/L
   28.5 %
   11.2 K/uL
        [image002.jpg]
                             [**2192-2-23**]  03:52 AM
                             [**2192-2-23**]  10:22 AM
                             [**2192-2-24**]  05:48 AM
   WBC
   11.7
   11.2
   Hct
   27.9
   28.5
   Plt
   250
   257
   Cr
   2.2
   TCO2
   36
   Glucose
   135
   Other labs: PT / PTT / INR:23.9/ 150.0/2.3, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Albumin:3.6 g/dL,
   Ca++:11.2 mg/dL, Mg++:2.4 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   66 year old woman with past medical history significant for COPD on
   home 02, hypertension, hyperlipidemia, h.o PE, PNA who presents with
   hypoxia.
   .
   # ACUTE RESPIRATORY FAILURE (hypoxic and hypercarbic)-Pt with COPD, on
   4L home o2, bipap. h.o PE. Pt with recent CAP tx with levoquin.
   Additionally, she completed a course of HAP with vanco/cefepime. CXR
   and CT showing LLL collapse with collapse of the L.mainstem bronchus.
   Bronchoscopy with thick purulent material. Likely HAP with resistant
   organism. Other etiologies include fungal infection, abscess, infarct
   from PE. Hypercarbic, likely secondary to COPD.
   - Passed RSBI, SBT
 acquired cuff leak overnight.
   - address cuff leak with steroids for now, consult IP for stent planned
   for next week
   - Cultures/Swabs/BAL
s positive only for Parainfluenza
   - will cover with vanco/zosyn
 would continue for full course (8 days)
   given purulence on BAL
   - consider broadening for anaerobic and/or double pseudomonal coverage
   if clinically worsens
   - standing inhalers for COPD
   - will continue steroids for now given chronicity, will f/u plan for
   taper
   - cont theophylline, level wnl
   - bcx, ucx, sputum cx.
   .
   # COPD: FEV 1 of .46.
   -continue inhalers
   -continue steroid, taper as per [**Hospital1 2791**] was to lower by 10 every
   otherday
   .
   #. h/o PE: INR subtherapeutic on admission, now 2.3 in goal range.
   Received 5 mg coumadin overnight and covered with IV heparin gtt.
   Currently on home dose coumadin
   - D/C heparin gtt
   - cont home dose coumadin and follow INRs (pending today)
   .
   # OSA: Unable to obtain BiPAP settings from OSH.
   - would start with Autoset
   .
   # DIABETES-Hiss, Fs qid, Dm diet.
   .
   # HYPERTENSION-continue home regimen
   .
   # HYPOTHYROIDISM: continue home regimen
   .
   # H/O PULMONARY EMBOLUS: heparin IV for now.
   .
   #CKD-Baseline appears to be around 2 as per spaliding, currently 2.3
   2.2
   - f/u urine lytes
   -u/a and cx
   -renally dose meds.
   .
   #. HYPERCALCEMIA: Unclear baseline. Concerning for underlying
   malignancy.
   - albumin pending
   .
   #.FEN-npo for now.
   DVT ppx-Coumadin
   PPI
   bowel regimen with senna/colace
   .
   #access-L midline, PIV
   .
   #.Communication with patients family
   .
   #Code confirmed full
   .
   DISPOSITION:Extubate, call out if tolerating.
   ICU Care
   Nutrition:
   Glycemic Control: Regular insulin sliding scale
   Lines: PICC
   Prophylaxis:
   DVT: heparin IV
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition:  ICU

2192-02-24 09:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerated SBT yesterday, but no cuff leak evident --> extubated
   postponed.
   Awake, alert.  Favorable RSBI this AM.
   Excellent SBT this AM, with audible cuff leak.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Linezolid
   Hives; Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2192-2-23**] 02:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-2-24**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-2-24**] 12:13 AM
   Dextrose 50% - [**2192-2-24**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2192-2-24**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 90 (78 - 102) bpm
   BP: 117/70(78) {99/55(66) - 123/78(87)} mmHg
   RR: 15 (7 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.8 kg (admission): 106.5 kg
             Total In:
                                                                  1,300 mL
                                                                    337 mL
   PO:
             TF:
   IVF:
                                                                  1,055 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  2,030 mL
                                                                    860 mL
   Urine:
                                                                  2,030 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -730 mL
                                                                   -523 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 608 (608 - 788) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 10
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 21
   PIP: 6 cmH2O
   SpO2: 97%
   ABG: 7.39/58/81.[**Numeric Identifier 252**]/34/7
   Ve: 5.2 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : Left
   base), (Breath Sounds: No(t) Clear : , No(t) Crackles : , Bronchial:
   Left, No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   257 K/uL
   71 mg/dL
   2.3 mg/dL
   34 mEq/L
   4.7 mEq/L
   55 mg/dL
   91 mEq/L
   134 mEq/L
   28.5 %
   11.2 K/uL
        [image002.jpg]
                             [**2192-2-23**]  03:52 AM
                             [**2192-2-23**]  10:22 AM
                             [**2192-2-24**]  05:48 AM
   WBC
   11.7
   11.2
   Hct
   27.9
   28.5
   Plt
   250
   257
   Cr
   2.2
   2.3
   TCO2
   36
   Glucose
   135
   71
   Other labs: PT / PTT / INR:23.9/ 150.0/2.3, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Albumin:3.6 g/dL,
   Ca++:10.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- multifactorial, including new/recurrent
   pneumonia, LLL atalectasis, severe tracheobronchomalacia, underlying
   COPD and OSA.  Plan extubation trial this AM, maintain COPD medication
   regimen (including steroids), and antimicrobials.  Plan to use
   non-invasive ventilation prn.
   PULMONARY INFILTRATE -- LLL, suspect pneumonia, suspect aspiration.
   +Parainfluenza by viral rapid pane.  Concern for superimposed resistent
   bacterial microbes (recent prolonged antimicrobials and intubation) -->
   would favor broad spectrum antimicrobials, esp. GNR coverage.  Continue
   suctioning.
   HYPONATREMIA -- Euvolemic.  Possibly related to pneumonia.  Plan
   monitor Na+, provide NS.
   RENAL INSUFFICIENCY -- baseline.  Monitor uo, BUN,creatinine.  Renal
   dose medications.
   FLUIDS -- euvolemia; plan maintain fliud balance.  Monitor I/O.
   h/o PULMONARY EMBOLISM -- continue anticoagulation, use heparin,
   maintain PTT 60-80
 d/c  and resume Coumadin.
   NUTRITIONAL SUPPORT --  Encourage PO if remains extubated.
   HYPERCALCEMIA
 repeat value lower.  Hold repletion therapy.  Monitor.
   Initiate evaluation for parathyroid disease.
   NIDDM
 Monitor glucose.  Maintain glucose <150.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2192-2-22**] 04:30 PM
   22 Gauge - [**2192-2-22**] 10:33 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2192-02-25 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2192-2-24**] 09:07 AM
   Allergies:
   Linezolid
   Hives; Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2192-2-23**] 02:06 AM
   Vancomycin - [**2192-2-24**] 10:44 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-2-25**] 02:08 AM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-2-24**] 08:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-2-25**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 100 (88 - 112) bpm
   BP: 124/54(72) {101/54(62) - 148/74(86)} mmHg
   RR: 18 (11 - 20) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.8 kg (admission): 106.5 kg
             Total In:
                                                                  1,517 mL
                                                                    476 mL
   PO:
                                                                    600 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    812 mL
                                                                    236 mL
   Blood products:
   Total out:
                                                                  2,580 mL
                                                                    570 mL
   Urine:
                                                                  2,580 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,063 mL
                                                                    -94 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 608 (608 - 608) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 0 cmH2O
   FiO2: 1%
   PIP: 6 cmH2O
   SpO2: 92%
   ABG: ///33/
   Ve: 5.2 L/min
   Physical Examination
   GENERAL: NAD, intubated, sedated, head nods to questions.
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**]. JVP-difficult to assess given habitus.
   LUNGS: b/l ae, decreased BS on the L.middle and lower lobes, no w/c/r
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES:1+ edema, no calf tenderness, erythema, symmetric, 2+
   dorsalis pedis/ posterior tibial pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO:intubated, sedated, head nods to commandes, able to move all 4
   extremities.
   Labs / Radiology
   288 K/uL
   9.1 g/dL
   52 mg/dL
   2.6 mg/dL
   33 mEq/L
   3.9 mEq/L
   57 mg/dL
   88 mEq/L
   132 mEq/L
   28.8 %
   14.2 K/uL
        [image002.jpg]
                             [**2192-2-23**]  03:52 AM
                             [**2192-2-23**]  10:22 AM
                             [**2192-2-24**]  05:48 AM
                             [**2192-2-25**]  05:30 AM
   WBC
   11.7
   11.2
   14.2
   Hct
   27.9
   28.5
   28.8
   Plt
   [**Telephone/Fax (3) 11220**]
   Cr
   2.2
   2.3
   2.6
   TCO2
   36
   Glucose
   135
   71
   52
   Other labs: PT / PTT / INR:34.9/150.0/3.6, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Albumin:3.6 g/dL,
   Ca++:10.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   66 year old woman with past medical history significant for COPD on
   home 02, hypertension, hyperlipidemia, h.o PE, PNA who presents with
   hypoxia.
   .
   # ACUTE RESPIRATORY FAILURE (hypoxic and hypercarbic)-Pt with COPD, on
   4L home o2, bipap. h.o PE. Pt with recent CAP tx with levoquin.
   Additionally, she completed a course of HAP with vanco/cefepime. CXR
   and CT showing LLL collapse with collapse of the L.mainstem bronchus.
   Bronchoscopy with thick purulent material. Likely HAP with resistant
   organism.
   -d/w IP for stent planned for next week
   - Cultures/Swabs/BAL
s positive only for Parainfluenza
   - will cover with vanco/zosyn
 would continue for full course (8 days)
   given purulence on BAL
   - consider broadening for anaerobic and/or double pseudomonal coverage
   if clinically worsens
   - standing inhalers for COPD
   - will continue steroids for now given chronicity, will f/u plan for
   taper
   - cont theophylline, level wnl
   - bcx, ucx, sputum cx.
   .
   # COPD: FEV 1 of .46.
   -continue inhalers
   -continue steroid, taper as per [**Hospital1 2791**] was to lower by 10 every
   otherday
   .
   #. h/o PE: INR subtherapeutic on admission, now 2.3 in goal range.
   Received 5 mg coumadin overnight and covered with IV heparin gtt.
   Currently on home dose coumadin
   - D/C heparin gtt
   - cont home dose coumadin and follow INRs (pending today)
   .
   #CKD-Baseline appears to be around 2 as per spaliding, increasing
   today. Fena prerenal.
   - TBB goal even
   -renally dose meds
   .
   # OSA: Unable to obtain BiPAP settings from OSH.
   - would start with Autoset
   .
   # DIABETES-Hiss, Fs qid, Dm diet.
   .
   # HYPERTENSION-continue home regimen
   .
   # HYPOTHYROIDISM: continue home regimen
   .
   # H/O PULMONARY EMBOLUS: heparin IV for now.
   .
   .
   #. HYPERCALCEMIA: Unclear baseline. Concerning for underlying
   malignancy.
   - PTH wnl
   - outpatient malignancy workup
   .
   #.FEN-npo for now.
   DVT ppx-Coumadin
   PPI
   bowel regimen with senna/colace
   .
   #access-L midline, PIV
   .
   #.Communication with patients family
   .
   #Code confirmed full
   .
   DISPOSITION:Extubate, call out if tolerating.
   ICU Care
   Nutrition:
   Glycemic Control: Regular insulin sliding scale
   Lines: PICC
   Prophylaxis:
   DVT: heparin IV
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition:  ICU

2192-02-25 10:33:00 Physician Attending Progress Note
Chief Complaint: Acute on chronic respiratory failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2192-2-24**] 09:07 AM
   Remains extubated
   On BiPAP overnight, home settings
   Diuresing, 1L negative over last 24 hours
   Good cough, productive of yellow secretions
   Tolerating oatmeal for breakfasts
   History obtained from Patient
   Allergies:
   Linezolid
   Hives; Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2192-2-23**] 02:06 AM
   Vancomycin - [**2192-2-24**] 10:44 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-2-25**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-2-25**] 08:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2192-2-25**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.8
C (96.4
   HR: 103 (89 - 112) bpm
   BP: 93/60(68) {93/53(62) - 148/74(86)} mmHg
   RR: 21 (11 - 21) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.8 kg (admission): 106.5 kg
             Total In:
                                                                  1,517 mL
                                                                    792 mL
   PO:
                                                                    600 mL
                                                                    440 mL
   TF:
   IVF:
                                                                    812 mL
                                                                    352 mL
   Blood products:
   Total out:
                                                                  2,580 mL
                                                                    825 mL
   Urine:
                                                                  2,580 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,063 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///33/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral bases,
   Bronchial: left base , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   288 K/uL
   52 mg/dL
   2.6 mg/dL
   33 mEq/L
   3.9 mEq/L
   57 mg/dL
   88 mEq/L
   132 mEq/L
   28.8 %
   14.2 K/uL
        [image002.jpg]
                             [**2192-2-23**]  03:52 AM
                             [**2192-2-23**]  10:22 AM
                             [**2192-2-24**]  05:48 AM
                             [**2192-2-25**]  05:30 AM
   WBC
   11.7
   11.2
   14.2
   Hct
   27.9
   28.5
   28.8
   Plt
   [**Telephone/Fax (3) 11220**]
   Cr
   2.2
   2.3
   2.6
   TCO2
   36
   Glucose
   135
   71
   52
   Other labs: PT / PTT / INR:34.9/150.0/3.6, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Albumin:3.6 g/dL,
   Ca++:10.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION:
 PNEUMONIA:  Positive for parainfluenze, cultures otherwise negative.
   Continues vancomycin, MDIs, prednisone taper.  On vanco/zosyn.
 PULMONARY EMBOLISM:  Coumadin stopped yesterday and IV heparin
   started given anticipated procedure (stent for TBM).
 TBM:  Seen by IP, anticipate stent placement next week.
 HYPONATREMIA:  Now may be related to diuresis and contraction,
   holding lasix as below.  Follow serial labs. [**Month (only) 8**] also be component of
   SIADH given lung process.
 HYPERCALCEMIA:  PTH was 62.  Plan for malignancy workup.
 ACUTE ON CHRONIC RENAL FAILURE:  Secondary to component of
   dehydration.  Lytes suggest prerenal.  Hold lasix and follow.
 DM:  Continue current management
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2192-2-22**] 04:30 PM
   20 Gauge - [**2192-2-24**] 03:31 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes